US05091523
EXAMPLE 3: Preparation of N-(2,6-Dihydroxycyclohexyl)glycinamide
N-protected benzyloxycarbonyl N-(2,6-dihydroxycyclohexyl) glycinamide (3 g, 0.093 mol) was dissolved in 100 ml of absolute ethanol with a molar equivalent of 10% HCl. Hydrogenolysis with 5% Pd/C at 30 psi, removal of the catalyst over celite, and subsequent evaporation of solvents in vacuo yielded a pale brownish solid which was triturated with ether and recrystallized from ethyl acetate and ether, m.p. 207°-210° C. NMR (D2O) δ, 3.65 (t, 3H, C1H of cyclohexane ring); 3.55 (m, 2H, C2H and C6H of cyclohexane); 3.4 (s, 2H, --CO--CH2 --NH2); 2.05, 1.80, and 1.38 (m,m,m, 2 to 1 to 3H, hydrogens of C3, C4 and C5 of cyclohexane).

reactant | benzyloxycarbonyl N-(2,6-dihydroxycyclohexyl) glycinamide | 0.093 mol, 3 g | C(C1=CC=CC=C1)OC(=O)NCC(=O)NC1C(CCCC1O)O | C16H22N2O5
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | HCl | Cl | ClH
product | N-(2,6-Dihydroxycyclohexyl)glycinamide | OC1C(C(CCC1)O)NC(CN)=O | C8H16N2O3
